US06410594B1
To a mixture of cis-3-aminomethylcyclopentancarboxylic acid (0.2 g, 1.4 mmol) in pyridine (about 5 mL) was added acetic anhydride (about 1 mL) and the mixture stirred at about 70° C. for about 2 h. The solvent was removed under reduced pressure, water was added several times and evaporated in vacuo. A light, viscous oil was obtained and dried in vacuo over acetone reflux to give 0.25 g (97%) of cis-3-[(methylcarbonylamino)methyl]cyclopentancarboxylic acid.

reactant | cis-3-aminomethylcyclopentancarboxylic acid | 1.4 mmol, 0.2 g | NC[C@H]1C[C@H](CC1)C(=O)O | C7H13NO2
reactant | acetic anhydride | about 1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | about 5 mL | N1=CC=CC=C1 | C5H5N
product | cis-3-[(methylcarbonylamino)methyl]cyclopentancarboxylic acid | 0.25 g, 97% | CC(=O)NC[C@H]1C[C@H](CC1)C(=O)O | C9H15NO3
